US04032521
One gram of 3-acetoxymethyl-7β-(2-phenyl-2-benzhydryloxycarbonylacetamido)-3-cephem-4-phosphonic acid is dissolved in 2 ml. anisole and treated for two minutes at 0° with 10 ml. trifluoroacetic acid. The mixture is pumped at 0.1 mm at 25° until most of the anisole is removed, and then more anisole is added and pumped off to insure complete removal of TFA. The residue is taken up in 100 ml. water containing three equivalents of NaHCO3, washed with methylene chloride and lyophilized, affording the product, trisodium 3-acetoxymethyl-7β-(2-carboxy-2-phenylacetamido)-3-cephem-4-phosphonate.

reactant | 3-acetoxymethyl-7β-(2-phenyl-2-benzhydryloxycarbonylacetamido)-3-cephem-4-phosphonic acid | One gram | C(C)(=O)OCC=1CS[C@H]2N(C1P(O)(=O)O)C([C@H]2NC(C(C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C31H29N2O9PS
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | three equivalents | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | trisodium 3-acetoxymethyl-7β-(2-carboxy-2-phenylacetamido)-3-cephem-4-phosphonate | C(C)(=O)OCC=1CS[C@H]2N(C1P([O-])(=O)[O-])C([C@H]2NC(C(C2=CC=CC=C2)C(=O)O)=O)=O.[Na+].[Na+].[Na+] | InChI=1S/C18H19N2O9PS.3Na/c1-9(21)29-7-11-8-31-17-13(15(23)20(17)16(11)30(26,27)28)19-14(22)12(18(24)25)10-5-3-2-4-6-10;;;/h2-6,12-13,17H,7-8H2,1H3,(H,19,22)(H,24,25)(H2,26,27,28);;;/q;3*+1/p-2/t12?,13-,17-;;;/m1.../s1
